US04395418
(3S, 4R)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-[1-methyl-2p-nitrobenzyloxycarbonylaminoethylthio(thiocarbonyl)]thio-1-[1-(p-nitrobenzyloxycarbonyl)triphenylphosphoranylidenemethyl]azetidin-2-one
In 5 ml of tetrahydrofuran were dissolved 223 mg (0.285 mmole) of (3S, 4R)-3 -[(R)-1-t-butyldimethylsilyloxyethyl]-1-[1-hydroxy-1-(p-nitrobenzyloxycarbonyl)methyl]-4-[1-methyl-2-p-nitrobenzyloxycarbonylaminoethylthio(thiocarbonyl)]thioazetidin-2-one. To the resulting solution were added, in turn, 34 mg (0.31 mmole) of 2,6-lutidine and 37 mg (0.31 mmole) of thionyl chloride at 31 15° C. The mixture was stirred at that temperature for 15 minutes. After the addition of a further 60 mg (0.56 mmole) of 2,6-lutidine and 183 mg (0.70 mmole) of triphenylphosphine, the mixture was stirred at 65° C. in a stream of nitrogen for 35 hours. Upon completion of the reaction, the mixture was diluted with ethyl acetate, washed with water and dried. The solvent was distilled off and the resulting residue was subjected to column chromatography through 10 g of silica gel eluted with a 15-20% v/v solution of ethyl acetate in benzene to give 159 mg (yield 54% ) of the desired product as a yellow oil.

reactant | (3S, 4R)-3 -[(R)-1-t-butyldimethylsilyloxyethyl]-1-[1-hydroxy-1-(p-nitrobenzyloxycarbonyl)methyl]-4-[1-methyl-2-p-nitrobenzyloxycarbonylaminoethylthio(thiocarbonyl)]thioazetidin-2-one | 0.285 mmole, 223 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1SC(=S)SC(CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C32H42N4O11S3Si
reactant | 2,6-lutidine | 0.31 mmole, 34 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | thionyl chloride | 0.31 mmole, 37 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-lutidine | 0.56 mmole, 60 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | triphenylphosphine | 0.70 mmole, 183 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-[1-methyl-2p-nitrobenzyloxycarbonylaminoethylthio(thiocarbonyl)]thio-1-[1-(p-nitrobenzyloxycarbonyl)triphenylphosphoranylidenemethyl]azetidin-2-one | 159 mg, yield 54% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1SC(=S)SC(CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C50H55N4O10PS3Si
